US05849769
A suspension of 2-fluoro-4-methyl acetophenone (10.0 g, 0.059 mol), mCPBA (26.0 g, 0.128 mol) and MgSO4 (30.0 g) in 500 mL of CHCl3 was stirred for 12 hrs. at RT. The mixture was then filtrated, washed with 2M NaOH, dried over Na2SO4 and concentrated in vacuo to give 1-acetyl-2-fluoro-4-methoxybenzene as a solid (10.7 g, 98%). A solution of the 1-acetyl-2-fluoro-4-methoxybenzene (5.3 g, 0.029 mol) in 100 mL of MeOH and 20 mL of 25% NH3 (aq) was stirred for 1 hr. at RT. The mixture was then concentrated in vacuo, diluted with water, extracted with EtOAc, dried over Na2SO4 and concentrated in vacuo to give 2-fluoro-4-methoxyphenol as an oil (3.85 g, 94%). 2-Ethoxy-1-fluoro-4-methoxybenzaldehyde was prepared according to method described in Example 362 of WO 93/03022 and converted to a cis/trans mixture of 2-(2-ethoxy-1-fluoro-6-methoxyphenyl)cyclopropylisocyanates according to the methods described in Examples 375 and 348 of WO 93/03022. This product was then condensed with 2-amino-5-bromo-pyridine in a manner analogous to the method in Example 7 to provide cis/trans mixture of N-2-(2-ethoxy-1-fluoro-6-methoxyphenyl)cyclopropyl-N'-(5-bromopyrid-2-yl)-ureas. The two products were separated on a silica-gel column eluated with mixtures of hexane and ethylacetate to yield N-(cis)-(3-ethoxy-2-fluoro-6-methoxyphenyl)-cyclopropyl-N'-(5-bromopyrid-2-yl)-urea: 1H NMR (250 MHz, CDCl3) δ 7.88 (s, 1H), 7.55 (dd, 1H), 6.83 (t, 1H),6.58 (dd, 1H), 4.03 (q, 2H), 3.79 (s, 3H), 3.32-3.19 (m, 1H), 1.54-1.20 (m, 2H), 1.46 (t, 3H).

reactant | 1-acetyl-2-fluoro-4-methoxybenzene | 0.029 mol, 5.3 g | C(C)(=O)C1=C(C=C(C=C1)OC)F | C9H9FO2
reactant | MeOH | 100 mL | CO | CH4O
solvent | NH3 | 20 mL | N | H3N
product | 2-fluoro-4-methoxyphenol | 3.85 g, 94% | FC1=C(C=CC(=C1)OC)O | C7H7FO2
